data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-c1ccc(F)cc1_2-S(=O)(=O)c1ccccc1_3-C_4-c1nccs1_5-C(C)(C)C_6-c1ccccc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(C)","C(=O)(c1nccs1)(C(C)(C)C)","Nc1ccccc1"],"products_smiles": ["C(C(=O)c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(C)C(c1nccs1)(C(C)(C)C)Nc1ccccc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(S(=O)(=O)c1ccccc1)=C(O)c1ccc(F)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(C)C(c1nccs1)(C(C)(C)C)Nc1ccccc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(F)cc1)(S(=O)(=O)c1ccccc1)(C)C(c1nccs1)(C(C)(C)C)Nc1ccccc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NR-339_1-c1ccc(F)cc1_2-C#N_3-N(C)C","level": "hard","name": "Rupe Rearrangement","reactants_smiles": ["C#CC(O)(c1ccc(F)cc1)C(C#N)N(C)C"],"products_smiles": ["CC(=O)C(=C(C#N)N(C)C)c1ccc(F)cc1"],"conditions": "Acid (e.g., H2SO4, Formic Acid)","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C#CC([OH2+])(c1ccc(F)cc1)C(C#N)N(C)C","step_weight": 0,"rationale": "Protonation of the hydroxyl increases its leaving group ability by converting OH into water, favored under strong acid due to the high basicity of oxygen."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C#C[C+](c1ccc(F)cc1)C(C#N)N(C)C","step_weight": 0,"rationale": "Heterolytic cleavage of the C–O bond occurs because water is an excellent leaving group and the resulting carbocation is stabilized by the adjacent propargyl system."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C#CC(=C(C#N)N(C)C)c1ccc(F)cc1","step_weight": 0,"rationale": "Proton elimination forms an allene, driven by the stability from cumulated double bonds and relief of carbocation instability."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C=[C+]C(=C(C#N)N(C)C)c1ccc(F)cc1","step_weight": 0,"rationale": "Electrophilic addition to the allene occurs at the less substituted carbon to generate a more substituted, resonance-stabilized allylic carbocation."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C=C([OH2+])C(=C(C#N)N(C)C)c1ccc(F)cc1","step_weight": 0,"rationale": "Water adds to the carbocation center because the cation is highly electrophilic and water is abundant under acidic aqueous conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C=C(O)C(=C(C#N)N(C)C)c1ccc(F)cc1","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores the neutral alcohol, favored by the stability of the C–OH bond."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)C(=C(C#N)N(C)C)c1ccc(F)cc1","step_weight": 0,"rationale": "Protonation of the alcohol oxygen activates it for tautomerization by increasing the electrophilicity of the adjacent carbon."},{"step": 8,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "CC(=O)C(=C(C#N)N(C)C)c1ccc(F)cc1","step_weight": 0,"rationale": "Proton elimination from the α-carbon leads to the conjugated enone, favored thermodynamically by extended π-conjugation."}],"description": "Under strong acid, the propargyl tertiary alcohol undergoes protonation to activate the hydroxyl as a leaving group, forming a stabilized carbocation. Rearrangement and addition steps proceed via resonance-stabilized cationic intermediates, ultimately yielding the α,β-unsaturated ketone through tautomerization and elimination."}
